US09107415B2
Intermediate 3: Synthesis of 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile
To 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-methylsulfonyl-pyridine-3-carbonitrile (2.043 mmol, 1 g) was added a solution of methylamine (5.1 ml of a 2M solution in tetrahydrofuran, 10.22 mmol). The reaction was stirred at room temperature for three hours and then concentrated under reduced pressure to give a brown gum. The crude product was purified by column chromatography on SiO2 using a hexane: EtOAc gradient to yield the desired compound (890 mg, 99%) as an orange solid. 1H NMR (400 MHz, CDCl3) (diagnostic peaks) δ ppm 7.55 (d, 1H), 7.18 (d, 2H), 6.45 (d, 1H), 3.55 (s, 3H), 3.05 (d, 3H), 2.15 (s, 3H), 2.00 (s, 3H).

reactant | 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-methylsulfonyl-pyridine-3-carbonitrile | 2.043 mmol, 1 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=CC=C(C(=N1)S(=O)(=O)C)C#N)=O)C | C22H21BrN2O4S
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile | 890 mg, 99% | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=CC=C(C(=N1)NC)C#N)=O)C | C22H22BrN3O2
